US08026257B2
3-Bromo-5-(trifluoromethyl)-1H-indazole-7-carbaldehyde.
To a mixture of 5-(trifluoromethyl)-1H-indazole-7-carbaldehyde (270 mg, 1.26 mmol) in acetic acid (5 mL) was added bromine (97 μL, 1.89 mmol) slowly over 5 min. After 1 h, the reaction mixture was diluted with methylene chloride, washed with water (2×), saturated sodium thiosulfate (2×), saturated sodium bicarbonate (2×), brine (2×), dried over sodium sulfate, and concentrated to afford 340 mg (92%) as a yellow powder. 1H-NMR (CDCl3, 300 MHz) δ 10.18 (s, 1H), 8.22 (s, 1H), 8.15 (s, 1H). Mass spec.: 294.81 (MH)+.

reactant | 5-(trifluoromethyl)-1H-indazole-7-carbaldehyde | 1.26 mmol, 270 mg | FC(C=1C=C2C=NNC2=C(C1)C=O)(F)F | C9H5F3N2O
reactant | bromine | 1.89 mmol, 97 μL | BrBr | Br2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-Bromo-5-(trifluoromethyl)-1H-indazole-7-carbaldehyde | BrC1=NNC2=C(C=C(C=C12)C(F)(F)F)C=O | C9H4BrF3N2O
